US05654307
A solution of 7-amino-4-(4-acetamidoanilino)pyrido[4,3-d]pyrimidine (0.30 g, 1.02 mmole) in aqueous NaOH (2M, 10 mL) and MeOH (10 mL) is stirred at 100° C. for 7 h. The resulting product is chromatographed over alumina (3-4% EtOH/CHCl3) to give 7-amino-4-(4-aminoanilino)pyrido[4,3-d]pyrimidine (86 mg, 33%) as an orange solid. 1H NMR (DMSO) δ 9.58 (1H, brs), 9.24 (1H, s), 8.25 (1H, s), 7.31 (2H d, J=8.6 Hz), 6.58 (2H, d, J=8.6 Hz), 6.48 (2H, brs), 6.39 (1H, s), 5.00 (2H, brs).

reactant | 7-amino-4-(4-acetamidoanilino)pyrido[4,3-d]pyrimidine | 1.02 mmole, 0.30 g | NC1=CC=2N=CN=C(C2C=N1)NC1=CC=C(C=C1)NC(C)=O | C15H14N6O
solvent | NaOH | 2M, 10 mL | [OH-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
product | 7-amino-4-(4-aminoanilino)pyrido[4,3-d]pyrimidine | 86 mg, 33% | NC1=CC=2N=CN=C(C2C=N1)NC1=CC=C(C=C1)N | C13H12N6
